US07157488B2
5-Chlorotryptamine
Cool to 5° C., a suspension of LiAlH4 (40.97 g) in THF (700 ml). Add a solution of AlCl3 (53.9 g, 0.40 mole) to THF (645 ml) over about 30 minutes while maintaining the temperature at about 5° C. and 10° C. Add (2-(5-chloro-1H-Indol-3-yl)-2-oxo-acetamide (20 g, 0.09 mole) in THF (900 ml) while maintaining the temperature at between 5° C. and 7.5° C. When the addition is complete warm to room temperature. Stir overnight and then cool to 7° C. and slowly add a solution of NaOH 50% (342 g, 4.28 mol). After stirring for about 1 hour, add anhydrous Na2SO4 (30 g) and filter the suspension on a celite bed. Evaporate the filtrate to dryness to give an oil. Combine the and Et2O (500 mL) and add a solution of Et2O/HCl 4.5N (15 mL) at room temperature to give a solid. Stir the suspension at room temperature for 1 hour, filter, and wash with 50 mL Et2O, dry under vacuum at 50° C. to give the hydrochloride of the title compound.

reactant | LiAlH4 | 40.97 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | AlCl3 | 0.40 mole, 53.9 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-(5-chloro-1H-Indol-3-yl)-2-oxo-acetamide | 0.09 mole, 20 g | ClC=1C=C2C(=CNC2=CC1)C(C(=O)N)=O | C10H7ClN2O2
reactant | NaOH | 4.28 mol, 342 g | [OH-].[Na+]
reactant | Na2SO4 | 30 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Et2O HCl | 4.5N, 15 mL | CCOCC.Cl
solvent | THF | 700 ml | C1CCOC1 | C4H8O
solvent | THF | 900 ml | C1CCOC1 | C4H8O
solvent | THF | 645 ml | C1CCOC1 | C4H8O
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | 5-Chlorotryptamine | ClC1=CC=C2NC=C(CCN)C2=C1 | C10H11ClN2
